US06777417B2
3-[3-(4-Acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde was prepared as described for 4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester in Example 8 but substituting ethyl chloroformate with with acetic anhydride.

reactant | 4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C19H29N3O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-[3-(4-Acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | C(C)(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C18H27N3O2
